US04112112
Similarly, by substituting 9-cyano-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine or its intermediate carbinol as starting material, there is produced 9-formyl-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine.

reactant | 9-cyano-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | C(#N)C1=CC2=C(C=CN3C(C2=CCCN(C)C)=CC=C3)C=C1 | C19H19N3
reactant | carbinol | CO | CH4O
product | 9-formyl-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | C(=O)C1=CC2=C(C=CN3C(C2=CCCN(C)C)=CC=C3)C=C1 | C19H20N2O
